US06787560B2
3-(2-Chloroethyl)-N-[3-(tert-butyldimethylsiloxy-methyl)benzyl]benzamide
A solution of 3-(2-chloroethyl)benzoyl chloride (2.43 g, 12.0 mmol) in ethyl acetate (10 mL) was added to a solution of 3-(tert-butyldimethylsiloxymethyl)benzylamine (3.01 g, 12.0 mmol) and triethylamine (3.3 mL, 24 mmol) in ethyl acetate (20 mL) at 0° C., and the resulting mixture was stirred at the same temperature for 2 hours and then at room temperature for 3 hours. The reaction mixture was diluted with ethyl acetate, washed successively with a 5% aqueous potassium hydrogensulfate solution, water, a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (silica gel 200 mL; hexane/ethyl acetate=10/1 to 3/1) to obtain the title compound (3.74 g, 75%) as a white solid.

reactant | 3-(2-chloroethyl)benzoyl chloride | 12.0 mmol, 2.43 g | ClCCC=1C=C(C(=O)Cl)C=CC1 | C9H8Cl2O
reactant | 3-(tert-butyldimethylsiloxymethyl)benzylamine | 12.0 mmol, 3.01 g | O([Si](C)(C)C(C)(C)C)CC=1C=C(CN)C=CC1 | C14H25NOSi
reactant | triethylamine | 24 mmol, 3.3 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-(2-Chloroethyl)-N-[3-(tert-butyldimethylsiloxy-methyl)benzyl]benzamide | 3.74 g, 75% | ClCCC=1C=C(C(=O)NCC2=CC(=CC=C2)CO[Si](C)(C)C(C)(C)C)C=CC1 | C23H32ClNO2Si
